US07511144B2
To a solution of 3.7 g (20.1 mmol) of 1-methyl-4-oxocyclohexanecarboxylic acid methyl ester in mixture of methanol and ethanol (6 mL+15 mL) was added 200 mg (5.29 mmol) of sodium borohydride at 0° C., and stirred for 1 hour at 0° C. After addition of water thereto, the reaction mixture was concentrated under a reduced pressure and the residue was extracted with ethyl acetate. The organic layer was washed with water and saturated brine successively and dried over anhydrous magnesium sulfate. Upon removal of the solvent by evaporation, 3.8 g (yield 100%) of 4-hydroxy-1-methylcyclohexanecarboxylic acid methyl ester was obtained as colorless liquid. Its physical property is shown below.

reactant | 1-methyl-4-oxocyclohexanecarboxylic acid methyl ester | 20.1 mmol, 3.7 g | COC(=O)C1(CCC(CC1)=O)C | C9H14O3
reactant | methanol | CO | CH4O
reactant | ethanol | 6 mL | C(C)O | C2H6O
reactant | sodium borohydride | 5.29 mmol, 200 mg | [BH4-].[Na+]
solvent | water | O | H2O
product | 4-hydroxy-1-methylcyclohexanecarboxylic acid methyl ester | 3.8 g, yield 100% | COC(=O)C1(CCC(CC1)O)C | C9H16O3
